US07196178B2
The p-aminophenol-β-D-glucopyranoside (250 mg) thus obtained was dissolved in tetrahydrofuran (20 ml), and lauroyl chloride (300 mg) and triethylamine (1.0 g) were added. The reaction mixture was refluxed for 5 hours. The reaction solution was filtered to remove solids, and the filtrate was evaporated under vacuum to give a dry solid. The residue was purified by silica gel chromatography using a tetrahydrofuran/chloroform mixed solvent (1/1, volume ratio) as an eluant, and dodecanoylaminophenol-β-D-glucopyranoside was thus obtained.

reactant | p-aminophenol-β-D-glucopyranoside | 250 mg | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OC1=CC=C(C=C1)N | C12H17NO6
reactant | lauroyl chloride | 300 mg | C(CCCCCCCCCCC)(=O)Cl | C12H23ClO
reactant | triethylamine | 1.0 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | dodecanoylaminophenol-β-D-glucopyranoside | Yield 80% | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OC1=C(C=CC=C1)NC(CCCCCCCCCCC)=O | C24H39NO7
